US08912169B2
Step 9: Synthesis of 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetic acid
To a solution of ethyl 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetate (0.58 g, 1.35 mmol) in THF (5 mL) and MeOH (5 mL) was added 3N NaOH (2.25 mL, 6.75 mmol). The resulting mixture was stirred at RT for 3 h. After removal of volatiles by evaporation, the residue was acidified by 0.5N HCl solution to pH ˜4.5 and extracted with EtOAc, dried over Na2SO4. Filtration and evaporation to dryness gave the acid in a quantitative yield. LC/MS: 423.1 (MNa)+.

reactant | ethyl 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetate | 1.35 mmol, 0.58 g | CC(C)(OC(NC(CNC(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)CC(=O)OCC)=O)C | C22H40N2O6
reactant | NaOH | 6.75 mmol, 3N, 2.25 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 2-(trans-4-(2,2,11,11-tetramethyl-4,9-dioxo-3,10-dioxa-5,8-diazadodecan-6-yl)cyclohexyl)acetic acid | quantitative yield | CC(C)(OC(NC(CNC(OC(C)(C)C)=O)[C@@H]1CC[C@H](CC1)CC(=O)O)=O)C | C20H36N2O6
